US07642296B2
13. 1-(3,4-Dimethyl-phenyl)-2-methyl-propan-1-one, Friedel-Crafts Reaction
In a nitrogen atmosphere, 213.1 g (2.0 mol) of isobutyryl chloride and 400 g of o-xylene are introduced into a 1.5 litre reaction flask. The solution is cooled to 5-0° C. Then, over about three hours, 293.3 g (2.2 mol) of aluminium chloride are added in small portions at 0-5° C. After the evolution of HCl gas has ceased, the reaction is checked using GC. The dark-red reaction solution is then poured into ice and water and stirred to complete the reaction. The two phases are separated in a separating funnel. The organic phase is washed with water and is then concentrated using a vacuum rotary evaporator. The last remnants of solvent are removed under a high vacuum. 329.1 g of faintly yellowish oil remain behind. The product is checked using GC and a 1H NMR spectrum. The product, 1-(3,4-dimethyl-phenyl)-2-methyl-propan-1-one, is used directly in the next reaction.

reactant | isobutyryl chloride | 2.0 mol, 213.1 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | o-xylene | 400 g | CC=1C=CC=CC1C | C8H10
reactant | aluminium chloride | 2.2 mol, 293.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 1-(3,4-Dimethyl-phenyl)-2-methyl-propan-1-one | CC=1C=C(C=CC1C)C(C(C)C)=O | C12H16O
